US07981903B2
A solution of (3S)-3-piperidinol hydrochloride (3.00 g, 21.7 mmol, Astatech Inc.), 4-fluoro-2-(methyloxy)-1-nitrobenzene (3.38 g, 19.76 mmol) and potassium carbonate (9.00 g, 65.22 mmol) in dimethylsulfoxide (75 mL) was stirred overnight. The next morning, the reaction was diluted with diethyl ether and saturated aqueous sodium chloride. The ether layer was washed with water, and the combined aqueous layers were subsequently washed twice with diethyl ether. The combined organic layers were dried over sodium sulfate, filtered, taken to a residue under reduced pressure, and purified by chromatography on SiO2 (5% MeOH/CH2CL2) to give (3S)-1-[3-(methyloxy)-4-nitrophenyl]-3-piperidinol as a pale yellow solid (3.90 g, 15.47 mmol, 78% yield). 1H NMR (400 MHz, CDCl3) δ ppm 1.59-1.71 (m, 2 H), 1.79 (s, 1 H), 1.86-1.96 (m, J=12.96, 6.41, 6.27, 3.48 Hz, 1 H), 1.96-2.04 (m, 1 H), 3.13-3.24 (m, 2 H), 3.47 (ddd, J=12.59, 6.36, 3.20 Hz, 1 H), 3.66 (dd, J=12.82, 3.48 Hz, 1 H), 3.86-3.92 (m, J=7.44, 3.94, 3.74, 3.74 Hz, 1 H), 3.93 (s, 3 H), 6.34 (d, J=2.56 Hz, 1 H), 6.43 (dd, J=9.34, 2.38 Hz, 1 H), 7.98 (d, J=9.34 Hz, 1 H).

reactant | (3S)-3-piperidinol hydrochloride | 21.7 mmol, 3.00 g | Cl.N1C[C@H](CCC1)O
reactant | 4-fluoro-2-(methyloxy)-1-nitrobenzene | 19.76 mmol, 3.38 g | FC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
reactant | potassium carbonate | 65.22 mmol, 9.00 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 75 mL | CS(=O)C | C2H6OS
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | sodium chloride | [Cl-].[Na+]
product | (3S)-1-[3-(methyloxy)-4-nitrophenyl]-3-piperidinol | 15.47 mmol, 3.90 g, 78% yield | COC=1C=C(C=CC1[N+](=O)[O-])N1C[C@H](CCC1)O | C12H16N2O4
